US05238939
A mixture of 32,5 g of 1-[3,3-bis(4-fluorophenyl)-2-propenyl]-4-(phenylmethyl)piperazine dihydrochloride and 3,3 g of 5% Pd at activated charcoal in 150 ml of methanol and 100 ml of water was hydrogenated under 60 psi. The catalyst was filtered off and after evaporation of the solvent basification with sodium hydroxide was achieved. The base was extracted with ethyl acetate and the organic phase was washed, dried and evaporated to yield 21,5 g (90,7%) of crude 1-[3,3-bis(4-fluorophenyl)propyl]piperazine.

reactant | 1-[3,3-bis(4-fluorophenyl)-2-propenyl]-4-(phenylmethyl)piperazine dihydrochloride | 32,5 g | Cl.Cl.FC1=CC=C(C=C1)C(=CCN1CCN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)F
reactant | charcoal | C | CH4
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
catalyst | Pd | 3,3 g | [Pd] | Pd
product | 1-[3,3-bis(4-fluorophenyl)propyl]piperazine | 21,5 g, 90,7% | FC1=CC=C(C=C1)C(CCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2
